US07777047B2
N-methyl-2-{4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetamide
To a solution of {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid (0.200 g) in N,N-dimethylformamide (10 ml) were added 1H-1,2,3-benzotriazol-1-ol (0.061 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.087 g) and 2.0 mol/L solution of N-methylamine in THF (0.25 ml), and the mixture was stirred at room temperature for 15 hr. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol), and recrystallized from ethyl acetate-hexane to give the title compound (0.150 g, yield 67%) as colorless crystals.

reactant | {4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetic acid | 0.200 g | CN(C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCN(CC1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C23H25N5O4S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.061 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.087 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylamine | CN | CH5N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | THF | 0.25 ml | C1CCOC1 | C4H8O
product | N-methyl-2-{4-[(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-5-yl)methyl]piperazin-1-yl}acetamide | 0.150 g, yield 67% | CNC(CN1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C24H28N6O3S3
